US08486968B2
(d) (3-Amino-2,4-dichloro-5-fluoro-benzyl)-carbamic acid tert-butyl ester
A mixture of Boc2O (3.76 g, 17.2 mmol), 3-amino-2,4-dichloro-5-fluoro-benzylamine (3.60 g, 17.2 mmol) and 100 mL THF is stirred over the weekend and concentrated.

reactant | Boc2O | 17.2 mmol, 3.76 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-amino-2,4-dichloro-5-fluoro-benzylamine | 17.2 mmol, 3.60 g | NC=1C(=C(CN)C=C(C1Cl)F)Cl | C7H7Cl2FN2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (3-Amino-2,4-dichloro-5-fluoro-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=C(C(=C1)F)Cl)N)Cl)=O | C12H15Cl2FN2O2
